US08912330B2
6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1-(pyrimidin-2-yloxy)-1H-pyrrolo[3,2-b]pyridine
The entitled compound is prepared from tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate and 2-bromo-pyrimidine as described in the last 2 steps of Example 18.

reactant | tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | ON1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C20H25N5O3
reactant | 2-bromo-pyrimidine | BrC1=NC=CC=N1 | C4H3BrN2
product | 6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1-(pyrimidin-2-yloxy)-1H-pyrrolo[3,2-b]pyridine | N1CCC(CC1)N1N=CC(=C1)C=1C=C2C(=NC1)C=CN2OC2=NC=CC=N2 | C19H19N7O
